US06150303
4-Chloro-2-fluoro-5-methylacetophenone
At 60° C., 157 g of acetyl chloride were added dropwise to a mixture of 250 g of 2-chloro-4-fluorotoluene and 267 g of aluminum chloride. The reaction mixture was stirred at 120° C. for 2 hours and then, while still at 100° C., poured onto 2 l of an ice/water mixture. 180 ml of concentrated hydrochloric acid were subsequently stirred into the resulting mixture. The product was then extracted using three times 200 ml of dichloromethane. The organic phase was then washed with 200 ml of water, dried over sodium sulfate and finally concentrated. Yield: 290 g; oil.

reactant | acetyl chloride | 157 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-chloro-4-fluorotoluene | 250 g | ClC1=C(C=CC(=C1)F)C | C7H6ClF
reactant | aluminum chloride | 267 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | hydrochloric acid | 180 ml | Cl | ClH
product | 4-Chloro-2-fluoro-5-methylacetophenone | CC1=C(C=C(C(=C1)C(=O)C)F)Cl | C9H8ClFO
